US07259266B2
Step 1. Preparation of l-fluoro-3-(methoxymethoxy)benzene
A solution of 22.4 g (200 mmole) of 3-fluorophenol in 400 mL of CH2Cl2 under N2 was prepared and cooled to 5° C. The stirred mixture was treated with 23.1 g (267 mmole) of chloromethyl methyl ether. The reactor was equipped with a thermocouple and an addition funnel. To the stirred mixture was added dropwise 34.8 mL of DIEA (25.8 g, 200 mmole) such that the temperature did not exceed 10° C. After 30 min, an additional 18 mL of DIEA was added dropwise. After a total of 1 h, an additional 18 mL of DIEA was added. The mixture was allowed to stand overnight. The solution was washed with 500 mL of 1N HCl and the aqueous layer extracted two times with CH2Cl2. Combined extracts were dried with Mg2SO4, carefully concd and distilled in vacuo 61-68° C. @ 15 torr to afford 28.7 g (75.3%) of a clear, colorless liquid: (lit. bp 25-26° C. @ 0.6 torr); 1H NMR (CDCl3/400 MHz) 3.46 (s, 3H), 5.14 (s, 2H), 6.70 (tdd, 1H, J=8.3 Hz, J=2.4 Hz, 0.8 Hz), 6.75-6.82 (m, 2H), 7.21 (q, 1H, J=7.7 Hz); 19F NMR (CDCl3/400 MHz) −112.0 (m, 1F); 113C NMR (CDCl3/100 MHz) 56.1, 94.5, 104.1 (d, J=25.0 Hz), 108.6 (d, J=21.3 Hz), 111.9 (d, J=2.9 Hz), 130.2 (d, J=9.9 Hz), 158.6 (d, J=11.0 Hz), 163.5 (d, J=245.3 Hz).

reactant | 3-fluorophenol | 200 mmole, 22.4 g | FC=1C=C(C=CC1)O | C6H5FO
reactant | chloromethyl methyl ether | 267 mmole, 23.1 g | COCCl | C2H5ClO
reactant | DIEA | 200 mmole, 34.8 mL, 25.8 g | CCN(C(C)C)C(C)C | C8H19N
reactant | DIEA | 18 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | DIEA | 18 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 400 mL | C(Cl)Cl | CH2Cl2
product | l-fluoro-3-(methoxymethoxy)benzene | FC1=CC(=CC=C1)OCOC | C8H9FO2
